US07705025B2
{2-Fluoro-4-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-phenyl}-[2-(S)-(2-(R)-methyl pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to General Procedure A using [2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone (354 mg, 0.85 mmol) and (2-bromo-thiazol-5-yl)-pyrrolidin-1-yl-methanone (222 mg, 0.85 mmol) to give 130 mg (32% yield). MS (ES+) 471.3 (M+H)+

reactant | 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 0.85 mmol, 354 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H34BFN2O3
reactant | (2-bromo-thiazol-5-yl)-pyrrolidin-1-yl-methanone | 0.85 mmol, 222 mg | BrC=1SC(=CN1)C(=O)N1CCCC1 | C8H9BrN2OS
product | {2-Fluoro-4-[5-(pyrrolidine-1-carbonyl)-thiazol-2-yl]-phenyl}-[2-(S)-(2-(R)-methyl pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 32% yield | FC1=C(C=CC(=C1)C=1SC(=CN1)C(=O)N1CCCC1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C25H31FN4O2S
